US06166009
(R)-1-(3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-3-piperidinecarboxamide hydrochloride
(R)-1-(3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-3-piperidinecarboxylic acid hydrochloride (4.96 g, 12.5 mmol, prepared as described in WO 9518793) was dissolved in N,N-dimethylformamide (60 ml). N-Hydroxybenzotriazole (1.86 g, 13.8 mmol) and 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride (2.64 g, 13.8 mmol) were added, and the resulting mixture was stirred at room temperature for 20 minutes. Ammonium hydrogencarbonate (1.98 g, 25 mmol) was added and the mixture was stirred 1 day at room temperature. Ethyl acetate (200 ml) was added and the resulting mixture was extracted with water (200 ml), 5% aqueous citric acid (200 ml), and saturated sodium hydrogencarbonate (200 ml). The combined aqueous phases were evaporated to dryness in vacuo and the residue was extracted with dichloromethane (200 ml). The resulting dichloromethane suspension was filtered and evaporated. The residue was purified by column chromatography on silica gel (600 ml) using a mixture of ethyl acetate and triethyl amine (95:5) as eluent. This afforded 1.92 g (43%) of the free base as an oil, which was converted to the hydrochloride by dissolution in diethyl ether (25 ml) and addition of 1 N hydrochloric acid in diethyl ether (5.9 ml). Filtration followed by drying in vacuo, afforded 1.53 g, (31%) of the title compound as a solid.

reactant | (R)-1-(3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-3-piperidinecarboxylic acid hydrochloride | 12.5 mmol, 4.96 g | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CCCN3C[C@@H](CCC3)C(=O)O
reactant | N-Hydroxybenzotriazole | 13.8 mmol, 1.86 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide hydrochloride | 13.8 mmol, 2.64 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Ammonium hydrogencarbonate | 25 mmol, 1.98 g | C(O)([O-])=O.[NH4+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (R)-1-(3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-3-piperidinecarboxamide hydrochloride | 31% | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CCCN3C[C@@H](CCC3)C(=O)N | InChI=1S/C24H28N2O.ClH/c25-24(27)20-9-5-15-26(17-20)16-6-12-23-21-10-3-1-7-18(21)13-14-19-8-2-4-11-22(19)23;/h1-4,7-8,10-12,20H,5-6,9,13-17H2,(H2,25,27);1H/t20-;/m1./s1
